2150-01-12 09:16:00 Physician Attending Progress Note
Chief Complaint: Hypotension, hypothermia, chronic renal insufficiency,
   acute renal failure, syncope, bradycardia, acidosis, altered mental
   status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CT of head/chest/abdomen/pelvis at outside hospital raised question of
   small bowel obstruction, mediastinal fluid collection, small left
   pleural effusion. Initial WBC 16K, hct 25, creat 7.3, bicarb 7. Patient
   was unresponsive.
   In ED, exam not suggestive of SBO. Patient has ileostomy due to
   colectomy for ulcerative colitis. She received additional fluids,
   pressors were decreased, and transferred to MICU.
   In MICU, patient was given additional fluids, weaned off pressors,
   given bicarb to get serum bicarb to 15. She has remained oliguric,
   however. Patient treated with external warming. CXR showed question of
   LLL infiltrate. RUQ ultrasound negative for biliary obstruction. UA
   notable for pyuria. Lactate has been 6.7.  [**Last Name (un) **] stim pending.
   24 Hour Events:
 MULTI LUMEN - START [**2150-1-12**] 12:11 AM
 ARTERIAL LINE - START [**2150-1-12**] 12:26 AM
 BLOOD CULTURED - At [**2150-1-12**] 04:50 AM
 URINE CULTURE - At [**2150-1-12**] 04:50 AM
 NASAL SWAB - At [**2150-1-12**] 05:00 AM
   MRSA screen
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, Intubated
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2150-1-12**] 03:58 AM
   Cefipime - [**2150-1-12**] 05:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-12**] 08:00 AM
   Pantoprazole (Protonix) - [**2150-1-12**] 08:11 AM
   Other medications:
   protonix, colace, insulin, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-12**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 100 (61 - 100) bpm
   BP: 108/64(75) {108/64(73) - 109/66(79)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             3,156 mL
   PO:
             TF:
   IVF:
   3,156 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,360 mL
   Urine:
   260 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,796 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 5,663 (5,663 - 5,663) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.42/23/152/14/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: On left (dependent) side,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   101 K/uL
   356 mg/dL
   5.8 mg/dL
   14 mEq/L
   3.3 mEq/L
   49 mg/dL
   112 mEq/L
   141 mEq/L
   23.0 %
   15.4 K/uL
        [image002.jpg]
                            [**2150-1-11**]  09:48 PM
                            [**2150-1-11**]  11:29 PM
                            [**2150-1-12**]  12:57 AM
                            [**2150-1-12**]  02:26 AM
                            [**2150-1-12**]  03:14 AM
                            [**2150-1-12**]  04:45 AM
                            [**2150-1-12**]  04:50 AM
   WBC
   15.4
   Hct
   23.0
   Plt
   101
   Cr
   6.5
   5.8
   TropT
   0.02
   TCO2
   7
   12
   15
   14
   15
   Glucose
   200
   356
   Other labs: PT / PTT / INR:14.9/42.1/1.3, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/19, Alk Phos / T Bili:92/0.2, Lactic
   Acid:1.1 mmol/L, Ca++:7.2 mg/dL, Mg++:1.0 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: Lipase - 3000
   Imaging: CXR: probable RLL infiltrate with air bronchograms. Concern
   for LLL process given prominent central airway bronchograms
   Assessment and Plan
   HYPOTENSION
   ACUTE RESPIRATORY FAILURE
   PNEUMONIA
   ACUTE RENAL FAILURE
   CHRONIC RENAL FAILURE
   ANEMIA
   THROMBOCYTOPENIA
   ALTERED MENTAL STATUS
   ACIDOSIS
   With hypothermia and evidence of both urine and lung infections,
   suspect infection is playing a signficant role in her hemodynamic
   condition. WBC elevated on presentation; down somewhat this morning.
   Patient on broad spectrum antibiotics. Not clear if the pulmonary
   process was a primary or secondary event. The RLL infiltrate is
   consistent with aspiration. Elevated lipase also raised issue of
   possible pancreatitis; RUQ ultrasound negative for ductal dilatation.
   Blood pressure has improved with fluids.
   While examining patient, I placed her on PSV 5/5. She sustained VT of
   500 and respiratory rate of 18-20, with minute ventilation of 10. The
   minute ventilation is likely up as a compensation for her metabolic
   acidosis since the PaCO2 is down appropriately for the increase in
   ventilation; this argues against a significant increase in dead space.
   Patient has a mixed [**Last Name 4344**] problem with both an anion gap and
   non-gap acidosis. Gap probably due to acute renal failure, now that
   lactate has improved. Nongap acidosis probably related to bicarb losses
   from GI tract.
   Patient remains unresponsive with negative head CT scan. Suspect
   toxic/metabolic enchephalopathy; may have taken excess of her baseline
   medications (TCA) although we are not seeing significant cardiac
   sequelae.
   Hct down; stool guaic positive. Not at transfusion threshold now.
   Platelets also down; being monitored.
   Acute renal failure may be due to ATN. Electrolytes acceptable; getting
   potassium repletion. Need to be careful with Lactated Ringers because
   of its potssium content.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2150-1-11**] 11:00 PM
   Multi Lumen - [**2150-1-12**] 12:11 AM
   Arterial Line - [**2150-1-12**] 12:26 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-01-13 13:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's respiratory status improved overnight. She was extubated this
   AM and now has excellent O2 sats with only low dose supplemental oxygen
   via nasal cannula.
   Has been hemodynamically stable. Creatinine has stabilized.
   NG aspirate shows coffee grounds, guaiac positive.
   24 Hour Events:
 BLOOD CULTURED - At [**2150-1-12**] 10:10 AM
 MULTI LUMEN - STOP [**2150-1-12**] 11:00 AM
 PICC LINE - START [**2150-1-12**] 03:26 PM
 NASAL SWAB - At [**2150-1-13**] 04:44 AM
 EKG - At [**2150-1-13**] 05:23 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2150-1-12**] 03:58 AM
   Cefipime - [**2150-1-13**] 05:17 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-1-13**] 07:57 AM
   Pantoprazole (Protonix) - [**2150-1-13**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-13**] 01:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 117 (86 - 118) bpm
   BP: 108/64(75) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,703 mL
                                                                    930 mL
   PO:
             TF:
   IVF:
                                                                  4,703 mL
                                                                    930 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    610 mL
   Urine:
                                                                    380 mL
                                                                    210 mL
   NG:
                                                                    250 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,223 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 382 (382 - 480) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.38/31/144/18/-5
   Ve: 9.4 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Scattered, bilaterally,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Patient not responding sufficiently to assess,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   7.7 g/dL
   111 K/uL
   101 mg/dL
   6.1 mg/dL
   18 mEq/L
   3.6 mEq/L
   50 mg/dL
   114 mEq/L
   143 mEq/L
   23.1 %
   12.0 K/uL
        [image002.jpg]
                            [**2150-1-11**]  11:29 PM
                            [**2150-1-12**]  12:57 AM
                            [**2150-1-12**]  02:26 AM
                            [**2150-1-12**]  03:14 AM
                            [**2150-1-12**]  04:45 AM
                            [**2150-1-12**]  04:50 AM
                            [**2150-1-12**]  12:17 PM
                            [**2150-1-12**]  09:21 PM
                            [**2150-1-13**]  02:45 AM
                            [**2150-1-13**]  04:27 AM
   WBC
   15.4
   13.7
   12.0
   Hct
   23.0
   23.2
   23.1
   Plt
   101
   125
   111
   Cr
   5.8
   6.3
   6.1
   TropT
   0.02
   TCO2
   7
   12
   15
   14
   15
   15
   19
   Glucose
   356
   189
   101
   Other labs: PT / PTT / INR:15.9/44.4/1.4, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/19, Alk Phos / T Bili:92/0.2,
   Amylase / Lipase:485/732, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   GI BLEED
   Patient extubated today. O2 sats great on minimal supplemental oxygen.
   Mental status improving. Patient responding to verbal cues.
   Creat has stabilized. Urine output increasing slightly. [**Month (only) 51**] be reaching
   plateau in ATN; hope to see the beginning of an autodiuresis within
   next 24 hours.
   Hct stable, but patient may have UGI bleed now as evidenced by NG
   aspirate. Monitor Hct today.
   Anion gap and non-gap acidosis persist. Former due to renal failure;
   latter may be related to volume resuscitation with NS. Additional
   fluids to be give as LR.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2150-1-11**] 11:00 PM
   Arterial Line - [**2150-1-12**] 12:26 AM
   PICC Line - [**2150-1-12**] 03:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2150-01-14 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneuonia, GI Bleed, anemia,
   acidosis, hypotension, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to do well post extubation.
   GI bleeding appears to have stopped per NG sampling.
   Afebrile
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-1-13**] 09:15 AM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2150-1-12**] 03:58 AM
   Cefipime - [**2150-1-14**] 05:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-1-14**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2150-1-14**] 08:02 AM
   Other medications:
   Insulin, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-14**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 96 (94 - 117) bpm
   BP: 108/64(75) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,050 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    240 mL
   Urine:
                                                                    350 mL
                                                                    240 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.40/28/80.[**Numeric Identifier 176**]/18/-5
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), I-II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Ileostomy
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   106 K/uL
   95 mg/dL
   6.3 mg/dL
   18 mEq/L
   4.1 mEq/L
   57 mg/dL
   114 mEq/L
   141 mEq/L
   22.0 %
   13.8 K/uL
        [image002.jpg]
                            [**2150-1-12**]  02:26 AM
                            [**2150-1-12**]  03:14 AM
                            [**2150-1-12**]  04:45 AM
                            [**2150-1-12**]  04:50 AM
                            [**2150-1-12**]  12:17 PM
                            [**2150-1-12**]  09:21 PM
                            [**2150-1-13**]  02:45 AM
                            [**2150-1-13**]  04:27 AM
                            [**2150-1-13**]  05:34 PM
                            [**2150-1-14**]  04:10 AM
   WBC
   15.4
   13.7
   12.0
   13.8
   Hct
   23.0
   23.2
   23.1
   22.0
   Plt
   101
   125
   111
   106
   Cr
   5.8
   6.3
   6.1
   6.3
   TropT
   0.02
   TCO2
   15
   14
   15
   15
   19
   18
   Glucose
   356
   189
   101
   95
   Other labs: PT / PTT / INR:15.8/37.6/1.4, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/19, Alk Phos / T Bili:92/0.2,
   Amylase / Lipase:276/255, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Afebrile. WBC coming down. Completing course of antibiotics although no
   clear source.
   O2 sats good off the ventilator.
   Creat remains in low 6 range. Metabolic acidosis persists. Patient
   compensating well from respirtory standpoint; actuall has a mild
   respiratory alkalosis given pH of 7.4 - normally should not correct all
   the way back to pH of 7.40.
   Hct slowly drifing down. Not yet at transfusion threshold. GI bleeding
   appears to have stopped. Begin tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2150-1-11**] 11:00 PM
   Arterial Line - [**2150-1-12**] 12:26 AM
   PICC Line - [**2150-1-12**] 03:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2150-01-15 09:21:00 Physician Attending Progress Note
Chief Complaint: Hypotension, acute renal failure, GI bleed, anemia,
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP has been elevated in past 24 hours. Patient's usual
   anti-hypertensives restarted.
   Fluid balance even yesterday.
   No evidence of ongoing GI bleeding.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: schizophrenia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2150-1-15**] 05:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-1-14**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2150-1-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-15**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 104 (84 - 105) bpm
   BP: 108/64(75) {0/0(0) - 0/0(0)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                    714 mL
                                                                    925 mL
   PO:
             TF:
                                                                     73 mL
                                                                    197 mL
   IVF:
                                                                    641 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    670 mL
   Urine:
                                                                    470 mL
                                                                    245 mL
   NG:
   175 mL
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Right hand and arm edema with clear vesicles
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Doesn't respond to questions, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   108 K/uL
   112 mg/dL
   6.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   62 mg/dL
   116 mEq/L
   145 mEq/L
   22.7 %
   16.7 K/uL
        [image002.jpg]
                            [**2150-1-12**]  03:14 AM
                            [**2150-1-12**]  04:45 AM
                            [**2150-1-12**]  04:50 AM
                            [**2150-1-12**]  12:17 PM
                            [**2150-1-12**]  09:21 PM
                            [**2150-1-13**]  02:45 AM
                            [**2150-1-13**]  04:27 AM
                            [**2150-1-13**]  05:34 PM
                            [**2150-1-14**]  04:10 AM
                            [**2150-1-15**]  04:27 AM
   WBC
   15.4
   13.7
   12.0
   13.8
   16.7
   Hct
   23.0
   23.2
   23.1
   22.0
   22.7
   Plt
   101
   125
   111
   106
   108
   Cr
   5.8
   6.3
   6.1
   6.3
   6.0
   TropT
   0.02
   TCO2
   14
   15
   15
   19
   18
   Glucose
   356
   189
   101
   95
   112
   Other labs: PT / PTT / INR:14.9/36.4/1.3, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/20, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:276/255, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:262 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: given differences in technique, probably no significant
   change.
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   GI BLEED
   ANEMIA
   Continues to do well off the ventilator. Oxygenation adequate off
   supplemental oxygen.
   Hypotension no longer an issue. Anti-hypertensives started.
   No evidence of bleeding. Hct low, just above our usual transfusion
   threshold. Given her lethargy, however, I would suggest transfusion
   today.
   Patient is on day 4 of antibiotics. Not clear what is the source of
   infection. Cultures have been unrevealing. There was some concern about
   an aspiration pneumonia on admission. Will change antibiotics for more
   specific coverage of aspiration pneumonia.
   Renal failure unchanged. Electrolytes and acid-base status acceptable.
   Mental status still does not appear to be at baseline. She is awake and
   responds to voice but is not communicative this AM. This may reflect,
   in part, uremia as well as her underlying psychiatric illness. Continue
   to monitor. Consider pyschiatry consult. Patient had CT on admission.
   Consider repeat.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2150-1-12**] 12:26 AM
   PICC Line - [**2150-1-12**] 03:26 PM
   20 Gauge - [**2150-1-14**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2150-01-16 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2150-1-15**] 10:00 AM
 ARTERIAL LINE - STOP [**2150-1-15**] 04:31 PM
    dc'd
   - Psych consulted- felt that her confusion is not related to
   schizoaffective disorder.  Recommended holding off of her
   antipsychotics, obtaining EEG, RPR and B12 level
   -RUE U/S negative for DVT.
   - placed social work consult re home caregiver
   - Started on Zosyn for aspiration pneumonia, but CT of chest obtained
   chest obtained witout evidence of pneumonia.  PFI: No mediastinal
   hemorrhage. Well-defined fluid collection likely anterior to the
   trachea likely represents prominent pericardial recess and
   less likely cyst. Severe coronary artery calcifications, trace
   ascites.  Small bilateral pleural effusions.
   - CT head without evidence of hemorrhage or stroke.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2150-1-15**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-15**] 04:00 PM
   Piperacillin - [**2150-1-16**] 04:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-1-15**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2150-1-16**] 12:02 AM
   Other medications:
   Changes to medical and family history: There are no changes to the
   medical and family history noted at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems noted
   at this time.
   Flowsheet Data as of  [**2150-1-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 93 (86 - 106) bpm
   BP: 133/65(82) {123/52(72) - 153/79(96)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                  2,922 mL
                                                                    689 mL
   PO:
             TF:
                                                                    556 mL
                                                                    221 mL
   IVF:
                                                                  1,306 mL
                                                                    468 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,535 mL
                                                                    515 mL
   Urine:
                                                                    610 mL
                                                                    215 mL
   NG:
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                  1,387 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.37/32/86/20/-5
   Physical Examination
   General Appearance: Well nourished, No acute distress, occasional
   one-word expressions, nods head occasionally.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), Right hand edematous, erythematous, stigmata of blisters
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic:
   Labs / Radiology
   120 K/uL
   9.0 g/dL
   127 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.7 mEq/L
   67 mg/dL
   117 mEq/L
   147 mEq/L
   27.0 %
   15.7 K/uL
        [image002.jpg]
                            [**2150-1-12**]  12:17 PM
                            [**2150-1-12**]  09:21 PM
                            [**2150-1-13**]  02:45 AM
                            [**2150-1-13**]  04:27 AM
                            [**2150-1-13**]  05:34 PM
                            [**2150-1-14**]  04:10 AM
                            [**2150-1-15**]  04:27 AM
                            [**2150-1-15**]  02:06 PM
                            [**2150-1-15**]  04:00 PM
                            [**2150-1-16**]  04:20 AM
   WBC
   13.7
   12.0
   13.8
   16.7
   15.7
   Hct
   23.2
   23.1
   22.0
   22.7
   22.1
   27.0
   Plt
   125
   111
   106
   108
   120
   Cr
   6.3
   6.1
   6.3
   6.0
   5.7
   5.5
   TCO2
   15
   19
   18
   19
   Glucose
   189
   101
   95
   112
   151
   127
   Other labs: PT / PTT / INR:14.2/36.1/1.2, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/20, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:276/255, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:262 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   70year-old female with a history of Ulcerative Colitis who presents
   from [**Hospital6 **] with hypothermia, bradycardia and hypotension
   found to have acute renal failure, severe acidosis and elevated
   pancreatic enzymes.
   ###Shock: Inactive issue, save white count that has not resolved. Now
   controlling hypertension via Nifedipine.
   ###Infection: WBC slightly elevated today at 16. Tmax, 99.5. No real
   improvement on Cefepime and Vanco. Switched to, Flagyl, Zosyn
   yesterday.   ?of Right Lower lobe PNA on CXR, but CT chest not
   suggestive (pleural effusions only). CT head raises possibility of
   sinus infection as cause of sub-acute increase in WBC
s, bot not
   earlier shock.  Pancreatitis does not appear to include superinfection.
   -Con
t Zosyn/Flagyl
   -con
t f/u blood and urine cultures pending
   -culture if spikes
   - f/u sputum cultures
   - LR boluses for MAP < 65, UOP < 30 cc/hr
   ###Acute Renal Failure:  Likely secondary to shock.  Urine Output 470
   over last 24 hours. Urinalysis was grossly positive for infection, but
   culture negative. With FeNa = 1% (borderline), so difficult to
   distinguish between pre-renal and intrinsic. However, given minimal
   improvement with fluid boluses, together with Urine urine Cl under 25,
   there is likely less of a pre-renal component and we must increasingly
   suspecting intrinsic failures. There is no evidence of hydronephrosis
   on CT scan to suggest post-renal obstruction.
   -improving with Creatinine 6.3
5.5.
   -Gas likewise improving w. pH 7.37, pCO2 32 (from 38) and po2 86
   ###Non-anion gap acidosis: The Delta delta,   (change in bicarb = 22
   while change in anion gap much less), earlier suggested that  a
   concomitant non-anion gap acidosis exists.  At that time we considered
   the differential for both Non-anion gap acidosis and gap acidosis:
   1) Anion gap differential: The urine anion gap = 1 (yesterday), which
   makes the differential RTA type I (urine pH is 5, is usually, with
   range 5.5-6 in type I), vs. RTA Type 4 (but K is not elevated, making
   this less likely). In short, with regards to the Anion gap
   differential, GI losses as etiology appear lower on the differential,
   and an intrinsic etiology, as also suggested above by urine lytes
   discussed under the "renal" section, appears likely.
   2) Non-Anion Gap Acidosis: If the delta HCO[3] ^- is greater than the
   delta anion gap, then a concomitant non-anion gap acidosis must exist
   as outlined above. The relevant differential includes Diarrhea (no
   significant in history), RTA,  andpancreaticoduodenal fistula., but
   there is no evidence of pancreatic fistual on CT.
    So, on admission, the patient has both a gap and non-anion gap
   acidosis. Common causes within each category include RTA. RTA type 4 is
   excluded by K, but RTA type I remains possibility, perhaps together
   with some earlier volume depletion.
   -plan as under renal failure section
   -per renal, strive for euvolemia.
    -con
t f/u renal recs
   ###Elevated pancreatic enzymes:  Pancreatitis on CT.  Enzymes trending
   down. Patient does not have clear risk factors as is s/p
   cholecystectomy and no known history of alcoholism.  Exam unremarkable.
   Resolving issue.
   - No further reason to trend enzymes.
    - NGT to suction for now
   - do not exceed moderate fluids given LE edema, resolving pancreatitis
   ###Altered Mental Status:  Likely secondary to infection and acute
   renal failure with electrolyte abnormalities..  Non contrast head CT
   was negative for bleed.
   - follow up cultures
   - holding sedating medications
   - additional workup if no improvement with control of her infection
   would include repeat head CT (question of facial droop at home
   reported)
   ###Hypertension: Con
t Nifedipine crushed through NG tube. Will need to
   transition over to her 30 of extended release once she can tolerate
   PO
   ###Schizoaffective disorder:
   -Pt has been off psych meds.  Cont to hold per psych.
   f/u RPR, B-12, EEG
   ###Hyperglycemia:  No documented history of diabetes.  Has required
   minimal insulin.
   - insulin sliding scale continues
   ###Anemia/Upper GI bleed:  One time event w/ only 300cc's total. Ostomy
   output was guaiac positive, but virtually no drop in HCT.  Will
   monitor, but will not consult GI given limited event and setting of
   acute illness.
   -maintain active type and screen
   - transfusion goal of > 21
   -ensure two large boar IV's
   ###FEN: LR for MAP < 65, UOP < 30 cc/hr, monitor electrolytes,
   bicarbonate as needed, NPO, NGT to suction
   ###Prophylaxis: SC heparin, PPI
   ###Access: picc, arterial line, 20 gauge.
   ###Code: Presumed full
   ###Communication: [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 4346**] [**Telephone/Fax (1) 4347**]
   ###Disposition: ICU care for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-1-16**] 04:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-1-12**] 03:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-01-16 09:20:00 Physician Attending Progress Note
Chief Complaint: Hypothermia, hypotension, acute renal failure,
   respiratory failure, acidosis, anemia, hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Right upper extremity ultrasound negative for DVT.
   CT chest was negative for infiltrates. CT head was negative for acute
   processes.
   Afebrile.
   Fluid balance positive yesterday. Creat improved.
   24 Hour Events:
 ULTRASOUND - At [**2150-1-15**] 10:00 AM
 ARTERIAL LINE - STOP [**2150-1-15**] 04:31 PM
    dc'd
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2150-1-15**] 05:50 AM
   Metronidazole - [**2150-1-15**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-15**] 04:00 PM
   Piperacillin - [**2150-1-16**] 04:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-1-15**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2150-1-16**] 12:02 AM
   Other medications:
   Insulin, colace, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-16**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 95 (86 - 106) bpm
   BP: 141/75(91) {123/52(72) - 153/79(96)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                  2,922 mL
                                                                    816 mL
   PO:
             TF:
                                                                    556 mL
                                                                    269 mL
   IVF:
                                                                  1,306 mL
                                                                    548 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,535 mL
                                                                    515 mL
   Urine:
                                                                    610 mL
                                                                    215 mL
   NG:
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                  1,387 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.37/32/86/20/-5
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Ileostomy
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   120 K/uL
   127 mg/dL
   5.5 mg/dL
   20 mEq/L
   3.7 mEq/L
   67 mg/dL
   117 mEq/L
   147 mEq/L
   27.0 %
   15.7 K/uL
        [image002.jpg]
                            [**2150-1-12**]  12:17 PM
                            [**2150-1-12**]  09:21 PM
                            [**2150-1-13**]  02:45 AM
                            [**2150-1-13**]  04:27 AM
                            [**2150-1-13**]  05:34 PM
                            [**2150-1-14**]  04:10 AM
                            [**2150-1-15**]  04:27 AM
                            [**2150-1-15**]  02:06 PM
                            [**2150-1-15**]  04:00 PM
                            [**2150-1-16**]  04:20 AM
   WBC
   13.7
   12.0
   13.8
   16.7
   15.7
   Hct
   23.2
   23.1
   22.0
   22.7
   22.1
   27.0
   Plt
   125
   111
   106
   108
   120
   Cr
   6.3
   6.1
   6.3
   6.0
   5.7
   5.5
   TCO2
   15
   19
   18
   19
   Glucose
   189
   101
   95
   112
   151
   127
   Other labs: PT / PTT / INR:14.2/36.1/1.2, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/20, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:276/255, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:262 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: Chest CT: no infiltrates
   Head CT: mild sinus inflammation
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   HYPERNATREMIA
   Mental status improved today; patient more communicative, answering
   questions. Probable toxic metabolic encephalopathy slowly resolving.
   Creat beginning to improve. Urine output picking up. Acid-base status
   acceptable.
   Serum sodium elevated today. Patient needs free water repletion today.
   Hemodynamics have been stable. Anti-hypertensives initiated.
   CT suggests sinuisitis. [**Month (only) 51**] be cause of leukocytosis. Would remove NG
   tube and place smaller feeding tube.
   ICU Care
   Nutrition: Tube feed
   Nutren 2.0 (Full) - [**2150-1-16**] 04:41 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-1-12**] 03:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2150-01-17 09:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2150-1-16**] 11:00 PM - infiltrated and was d/c'd
   She was given 1500 ml of D5W, was also getting 1/2 NS + 1 AM HCo3 at 50
   ml x 36 hours
   She went from 147 to 129 to 131
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2150-1-15**] 05:50 AM
   Metronidazole - [**2150-1-15**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-1-15**] 04:00 PM
   Piperacillin - [**2150-1-16**] 04:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-1-17**] 07:57 AM
   Heparin Sodium (Prophylaxis) - [**2150-1-17**] 07:57 AM
   Other medications:
   Nifedipine, ducosate,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-1-17**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 102 (86 - 116) bpm
   BP: 117/61(74) {115/52(68) - 158/91(106)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                  3,269 mL
                                                                  1,027 mL
   PO:
                                                                    910 mL
                                                                    200 mL
   TF:
                                                                    331 mL
   IVF:
                                                                  2,028 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    485 mL
   Urine:
                                                                    570 mL
                                                                    285 mL
   NG:
   Stool:
                                                                    260 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,139 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Ileostomy
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   117 K/uL
   476 mg/dL
   4.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   61 mg/dL
   103 mEq/L
   129 mEq/L
   24.4 %
   13.5 K/uL
        [image002.jpg]
                            [**2150-1-14**]  04:10 AM
                            [**2150-1-15**]  04:27 AM
                            [**2150-1-15**]  02:06 PM
                            [**2150-1-15**]  04:00 PM
                            [**2150-1-16**]  04:20 AM
                            [**2150-1-16**]  04:43 PM
                            [**2150-1-16**]  06:00 PM
                            [**2150-1-17**]  12:00 AM
                            [**2150-1-17**]  05:34 AM
                            [**2150-1-17**]  08:00 AM
   WBC
   13.8
   16.7
   15.7
   13.2
   13.5
   Hct
   22.0
   22.7
   22.1
   27.0
   24.6
   24.4
   Plt
   106
   108
   120
   111
   117
   Cr
   6.3
   6.0
   5.7
   5.5
   5.1
   4.6
   TCO2
   19
   Glucose
   95
   112
   151
   127
   [**Telephone/Fax (3) 4480**]
   476
   Other labs: PT / PTT / INR:14.2/36.1/1.2, CK / CKMB /
   Troponin-T:57/8/0.02, ALT / AST:15/20, Alk Phos / T Bili:93/0.2,
   Amylase / Lipase:276/255, Differential-Neuts:82.6 %, Lymph:9.9 %,
   Mono:6.8 %, Eos:0.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:262 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 SHOCK, OTHER
 ACIDOSIS, MIXED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   HYPERNATREMIA
   1. ARF: Creat beginning to improve. Urine output at 30 ml/hr. Acid-base
   status acceptable
 possible type 1 RTA
 uinclear if she will manage
   to get away without HD long term bu none at present.
   2. Mental status improved today; patient more communicative, answering
   questions.
   3. Hemodynamics have been stable. Anti-hypertensives initiated.
   4. Rx of HyperNa ended up exaggerated at she liberalized her po and she
   took 1L of po water in addition ot her 1.5 L of D5W. Currently will
   free water restrict to 1L day.
   5. Swollen hand: looks like infiltarted IV exac by tissue edema- per
   team actually improving. Also watching pICC site. If spikes
   6. CT suggests sinuisitis. Day 2 of 10 Azithro
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-1-17**] 07:47 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  boyfriend [**Name (NI) **] but he is not HCP
   [**Name (NI) 36**] status: Full code
   Disposition : call out